US04605656
A solution of 13.3 g of 2',4'-dichloro-2-(3-pyridyl)-acetophenone in 40 ml of ethanol is treated with 10 g of sodium carbonate and 8.3 g of O-methylhydroxylamine hydrochloride; the mixture is subsequently heated at reflux temperature while stirring. After 4 hours, the mixture is poured onto ice and extracted with ethyl acetate. The organic phase is washed, dried over sodium sulfate and concentrated under reduced pressure to yield 2',4'-dichloro-2-(3-pyridyl)-acetophenone O-methyl oxime as the E,Z-isomer mixture in the form of a yellowish oil. Chromatographic separation on silica gel with n-hexane/ethyl acetate (4:1) as the eluant yields firstly the E-isomer (nD20 =1.5845) and then the Z-isomer (nD20 =1.5745).

reactant | 2',4'-dichloro-2-(3-pyridyl)-acetophenone | 13.3 g | ClC1=C(C=CC(=C1)Cl)C(CC=1C=NC=CC1)=O | C13H9Cl2NO
reactant | sodium carbonate | 10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | O-methylhydroxylamine hydrochloride | 8.3 g | Cl.CON
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2',4'-dichloro-2-(3-pyridyl)-acetophenone O-methyl oxime | CON=C(CC=1C=NC=CC1)C1=C(C=C(C=C1)Cl)Cl | C14H12Cl2N2O
